US03996374
The starting material can be prepared from 1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and diethylcarbonate in a manner analogous to that described in Example 1. After recrystallization from ethanol, there is obtained 3-phenylisoindole-1-carboxylic acid ethyl ester; m.p. 144°-147° C (decomposition).

reactant | 1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | CN1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)=O | C16H14N2O
reactant | diethylcarbonate | C(C)OC(OCC)=O | C5H10O3
product | 3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=CC=CC12)C1=CC=CC=C1 | C17H15NO2
